US06399629B1
(O) N-tert-Butoxycarbonyl-trans-4-(N-tert-Butoxycarbonylamino)-L-Proline
A solution of lithium hydroxide monohydrate (86 mg) in water (7 mL) was added to a cold (0° C.) stirred solution of N-tert-butoxycarbonyl-trans-4-(tert-butoxycarbonylamino)-L-proline methyl ester (N, 589 mg) in tetrahydrofuran (21 mL)-methanol (7 mL). The mixture was stirred at room temperature for 5 hr and evaporated in vacuo. The residue was diluted with water and washed with ether. The aqueous layer was acidified with 1 N hydrochloric acid and extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous sodium sulfate, and evaporated in vacuo to give the title compound (222 mg) as a colorless foam: 1H NMR (400 MHz, CDCl3) δ 1.35-1.57 (m, 18H), 2.05-2.52 (m, 2H), 3.19-3.37 (m, 1H), 3.66-3.81 (m, 1H, 4.17-4.45 (m, 2H), and 4.63-4.87 (m, 1H).

reactant | lithium hydroxide monohydrate | 86 mg | O.[OH-].[Li+]
reactant | N-tert-butoxycarbonyl-trans-4-(tert-butoxycarbonylamino)-L-proline methyl ester | 589 mg | COC([C@H]1N(C[C@@H](C1)NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C)=O | C16H28N2O6
reactant | methanol | 7 mL | CO | CH4O
solvent | water | 7 mL | O | H2O
solvent | tetrahydrofuran | 21 mL | O1CCCC1 | C4H8O
product | N-tert-Butoxycarbonyl-trans-4-(N-tert-Butoxycarbonylamino)-L-Proline | 222 mg | C(C)(C)(C)OC(=O)N1[C@H](C(=O)O)C[C@H](C1)NC(=O)OC(C)(C)C | C15H26N2O6
